US08067445B2
Step 1: {2′-[((1S,2R)-2-Hydroxy-1-methyl-2-phenyl-ethylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
(2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.094 g, 0.27 mmol), (1R,2S)-(−)-norephedrine (0.054 g, 0.35 mmol), and sodium triacetoxyborohydride (0.113 g, 0.53 mmol) were combined in dichloroethane (1 mL). Acetic acid (1 drop) was added, and the reaction was stirred at room temperature for 40 minutes. Analytical tlc showed that only starting material was present, so the reaction was heated to 50° C. and stirred overnight. Analytical LCMS showed that some starting material was still present, so additional (1R,2S)-(−)-norephedrine (0.057 g, 0.38 mmol), and sodium triacetoxyborohydride (0.115 g, 0.53 mmol) were added, and the reaction was stirred for 3.5 hours at 50° C. After cooling to room temperature, the mixture was diluted with CH2Cl2 and saturated aqueous NaHCO3, and the aqueous layer was extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.27 mmol, 0.094 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C18H15F3O4
reactant | (1R,2S)-(−)-norephedrine | 0.35 mmol, 0.054 g | C[C@@H]([C@@H](C1=CC=CC=C1)O)N | C9H13NO
reactant | sodium triacetoxyborohydride | 0.53 mmol, 0.113 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (1R,2S)-(−)-norephedrine | 0.38 mmol, 0.057 g | C[C@@H]([C@@H](C1=CC=CC=C1)O)N | C9H13NO
reactant | sodium triacetoxyborohydride | 0.53 mmol, 0.115 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
catalyst | Acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | {2′-[((1S,2R)-2-Hydroxy-1-methyl-2-phenyl-ethylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN[C@H]([C@@H](C1=CC=CC=C1)O)C)=O | C27H28F3NO4
